US06034275
from 2,4-difluorobenzoyl chloride and 2,5-difluoroanisole via (2,4-difluoro-phenyl)-(2,5-difluoro-4-methoxy-phenyl)-methanone, which is deprotected with hydrogen bromide and reacted with 1,6-dibromohexane and N-allyl-methyl-amine, there is obtained [4-[6-(allyl-methyl-amino)-hexyloxy]-2,5-difluoro-phenyl]-(2,4-difluoro-phenyl)-methanone-hydrochloride (1:1), MS: m/e 423 (M),

reactant | 2,4-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | 2,5-difluoroanisole | FC1=C(C=C(C=C1)F)OC | C7H6F2O
reactant | (2,4-difluoro-phenyl)-(2,5-difluoro-4-methoxy-phenyl)-methanone | FC1=C(C=CC(=C1)F)C(=O)C1=C(C=C(C(=C1)F)OC)F | C14H8F4O2
reactant | hydrogen bromide | Br | BrH
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
reactant | N-allyl-methyl-amine | C(C=C)NC | C4H9N
product | [4-[6-(allyl-methyl-amino)-hexyloxy]-2,5-difluoro-phenyl]-(2,4-difluoro-phenyl)-methanone-hydrochloride | Cl.C(C=C)N(CCCCCCOC1=CC(=C(C=C1F)C(=O)C1=C(C=C(C=C1)F)F)F)C | InChI=1S/C23H25F4NO2.ClH/c1-3-10-28(2)11-6-4-5-7-12-30-22-15-20(26)18(14-21(22)27)23(29)17-9-8-16(24)13-19(17)25;/h3,8-9,13-15H,1,4-7,10-12H2,2H3;1H
